US08686024B2
To a solution of 5-methoxyindoline (202 mg, 1.35 mmol) and N,N-diisopropylethylamine (0.34 mL, 2.0 mmol) in 4.0 mL of dry dichloromethane was added benzoyl chloride (0.23 mL, 2.0 mmol) at 0° C. After the reaction mixture was stirred at room temperature for 1 h, the reaction mixture was diluted with ethyl acetate. The solution was washed with saturated NaHCO3 aqueous solution, brine, and dried over MgSO4. After filtration, the filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=95/5 to 70/30) to obtain 5-methoxy-1-benzoylindoline (224 mg, 65%).

reactant | 5-methoxyindoline | 1.35 mmol, 202 mg | COC=1C=C2CCNC2=CC1 | C9H11NO
reactant | N,N-diisopropylethylamine | 2.0 mmol, 0.34 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzoyl chloride | 2.0 mmol, 0.23 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 4.0 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-methoxy-1-benzoylindoline | 224 mg, 65% | COC=1C=C2CCN(C2=CC1)C(C1=CC=CC=C1)=O | C16H15NO2
